US07795236B2
tert-Butyl N-(2-methoxycarbonylbiphenyl-4-ylmethyl)-carbamate
Methyl 4-formylbiphenyl-2-carboxylate (1.06 g) and sodium acetate (0.73 g) were suspended in tetrahydrofuran (20 mL), 50% aqueous hydroxylamine (0.6 mL) was added, and the resulting mixture was stirred at 80° C. for 8 hours. Water was added to the reaction mixture and the whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue obtained was dissolved in ethanol (10 mL), di-tert-butyl dicarbonate (0.37 g) and 5% platinum on carbon (60 wt % H2O, 0.21 g) were added, and the resulting mixture was stirred at room temperature for 4 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure. The residue obtained was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (0.42 g).

reactant | Methyl 4-formylbiphenyl-2-carboxylate | 1.06 g | C(=O)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)OC | C15H12O3
reactant | sodium acetate | 0.73 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine | 0.6 mL | NO | H3NO
reactant | di-tert-butyl dicarbonate | 0.37 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | platinum on carbon | 0.21 g | [Pt] | Pt
solvent | Water | O | H2O
product | tert-Butyl N-(2-methoxycarbonylbiphenyl-4-ylmethyl)-carbamate | 0.42 g | COC(=O)C1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C20H23NO4
